US05395947
L-threitol 1,4-bis(methanesulfonate) was reacted with formaldehyde and concentrated sulfuric acid as described in J. Med. Chem., 7, 14 (1964) to yield 2,3-O-methylene-L-threitol 1,4-bis-(methanesulfonate) in 63% yield.

reactant | L-threitol 1,4-bis(methanesulfonate) | CS(=O)(=O)OC[C@H](O)[C@@H](O)COS(=O)(=O)C | C6H14O8S2
reactant | formaldehyde | C=O | CH2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3-O-methylene-L-threitol 1,4-bis-(methanesulfonate) | 63% yield | CS(=O)(=O)OC[C@]1(O)[C@@H](OC1)COS(=O)(=O)C | C7H14O8S2
